US07855297B2
By the reaction and treatment in the same manner as in Example 334 using N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.95 g) and 2-chloromethyl-5-methoxypyridine (0.83 g) as starting materials, N-(6-isopropylpyridin-3-yl)-N-({1-[(5-methoxypyridin-2-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide dihydrochloride (0.97 g) was obtained.

reactant | N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.95 g | Cl.C(C)(C)C1=CC=C(C=N1)N(C(=O)C1CCCC2=CC=CC=C12)CC=1C=NNC1
reactant | 2-chloromethyl-5-methoxypyridine | 0.83 g | ClCC1=NC=C(C=C1)OC | C7H8ClNO
product | N-(6-isopropylpyridin-3-yl)-N-({1-[(5-methoxypyridin-2-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide dihydrochloride | 0.97 g | Cl.Cl.C(C)(C)C1=CC=C(C=N1)N(C(=O)C1CCCC2=CC=CC=C12)CC=1C=NN(C1)CC1=NC=C(C=C1)OC | InChI=1S/C30H33N5O2.2ClH/c1-21(2)29-14-12-25(16-32-29)35(30(36)28-10-6-8-23-7-4-5-9-27(23)28)19-22-15-33-34(18-22)20-24-11-13-26(37-3)17-31-24;;/h4-5,7,9,11-18,21,28H,6,8,10,19-20H2,1-3H3;2*1H
